US08871778B2
Preparation of (3-methyl-1-(2-(1-methyl-1H-indol-5-ylamino)pyrimidin-4-yl)-1H-pyrazol-4-yl)methanol; Intermediate 7
A round bottomed flask was charged with methyl (1-(2-chloropyrimidin-4-yl)-3-methyl-1H-pyrazol-4-yl)methanol (400 mg, 1.78 mmol), 1-methyl-1H-indol-5-amine (338 mg, 1.3 equiv.), potassium carbonate (0.74 g, 3.0 equiv), palladium acetate (40 mg, 0.1 equiv), (9,9-dimethyl-9H-xanthene-4,5-diyl)bis(diphenylphosphine) (Xantphos, 206 mg, 0.2 equiv.) and 40 mL of anhydrous dioxane. After being degassed by nitrogen bubbling, the reaction mixture was heated at 100° C. for 12 hours. Volatiles were removed in vacuo and then the resulting residue was extracted with ethyl acetate. The collected organic layer was dried over anhydrous sodium sulfate and then concentrated in vacuo. The resulting residue was purified by recrystallization in acetonitrile to give 241 mg (36%) of the desired product as a brown solid. MS (ESI) m/z 335 [M+H]+.

reactant | methyl (1-(2-chloropyrimidin-4-yl)-3-methyl-1H-pyrazol-4-yl)methanol | 1.78 mmol, 400 mg | CC(O)C=1C(=NN(C1)C1=NC(=NC=C1)Cl)C | C10H11ClN4O
reactant | 1-methyl-1H-indol-5-amine | 338 mg, 1.3 equiv. | CN1C=CC2=CC(=CC=C12)N | C9H10N2
reactant | potassium carbonate | 0.74 g, 3.0 equiv | C([O-])([O-])=O.[K+].[K+]
reactant | (9,9-dimethyl-9H-xanthene-4,5-diyl)bis(diphenylphosphine) | 206 mg, 0.2 equiv. | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
catalyst | palladium acetate | 40 mg, 0.1 equiv | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | dioxane | 40 mL | O1CCOCC1 | C4H8O2
product | (3-methyl-1-(2-(1-methyl-1H-indol-5-ylamino)pyrimidin-4-yl)-1H-pyrazol-4-yl)methanol | 241 mg, 36% | CC1=NN(C=C1CO)C1=NC(=NC=C1)NC=1C=C2C=CN(C2=CC1)C | C18H18N6O
